US07326791B2
(b) methyl 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoate
20 g (67.1 mmol) of 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid is dissolved in 400 mL of N,N-dimethylformamide and combined with 21.9 g (67.1 mmol) cesium carbonate with stirring. Then 4.21 mL (67.1 mmol) of iodomethane is slowly added dropwise at ambient temperature and the mixture is stirred for 16 hours at ambient temperature. After the solid constituents have been removed by filtration with suction, volatile constituents are removed in vacuo. Yield: 20.94 g (75%); Rf value: 0.42 (silica gel; dichloromethane/ethanol=98:2); C13H14BrNO3 (312.17); mass spectrum: (M+H)+=312/314 (bromine isotope).

reactant | 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | 67.1 mmol, 20 g | BrC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C12H12BrNO3
reactant | cesium carbonate | 67.1 mmol, 21.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 67.1 mmol, 4.21 mL | IC | CH3I
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | methyl 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoate | BrC=1C=C(C(=O)OC)C=CC1C(=O)N1CCCC1 | C13H14BrNO3
